US04908367
A solution of 3.5 g of 2-hydroxy-N-(1H-indol-4-yl)benzamide and 1.9 g of potassium carbonate in 100 ml of acetone was refluxed for 30 hours under an inert atmosphere with 11 ml of epichlorohydrin and the insoluble material was filtered off. The filtrate was evaporated to dryness and the residue was purified by chromatography over silica (eluent: chloroform/acetone/TEA 6:3:1). Fractions having a Rf=0.45 were evaporated to dryness and the residue was empasted with ether, filtered and dried under reduced pressure at 60° C. to obtain 3.65 g of 2-[(2-oxiranyl)methoxy]-N-(1H-indol-4-yl)benzamide melting at 171° C.

reactant | 2-hydroxy-N-(1H-indol-4-yl)benzamide | 3.5 g | OC1=C(C(=O)NC2=C3C=CNC3=CC=C2)C=CC=C1 | C15H12N2O2
reactant | potassium carbonate | 1.9 g | C([O-])([O-])=O.[K+].[K+]
reactant | epichlorohydrin | 11 ml | C(Cl)C1CO1 | C3H5ClO
solvent | acetone | 100 ml | CC(=O)C | C3H6O
product | 2-[(2-oxiranyl)methoxy]-N-(1H-indol-4-yl)benzamide | 3.65 g | O1C(C1)COC1=C(C(=O)NC2=C3C=CNC3=CC=C2)C=CC=C1 | C18H16N2O3
